US05753664
2-Tert-butyl-4-chloro-5-dimethylamino-3(2H)-pyridazinone
In ethanol-water (2:1) (45 ml)was dissolved 2-t-butyl-4,5-dichloro-3(2H)-pyridazinone (4.4 g) followed by addition of 50% dimethylamine (7.2 g), and the mixture was stirred at room temperature for 15 hours. After removal of ethanol, the residue was extracted with diethyl ether and the organic layer was washed with saturated aqueous NaCl solution, dried over anhydrous magnesium sulfate, and concentrated to dryness. This residue was washed with n-hexane and dried. White powder, 4.4 g. 1H-NMR (CDCl3) δ: 1.63(9H,s), 3.10(6H,s), 7.57(1H,s).

reactant | 2-t-butyl-4,5-dichloro-3(2H)-pyridazinone | 4.4 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)Cl | C8H10Cl2N2O
reactant | dimethylamine | 7.2 g | CNC | C2H7N
solvent | ethanol water | 45 ml | C(C)O.O
product | 2-Tert-butyl-4-chloro-5-dimethylamino-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)N(C)C | C10H16ClN3O
